US06211215B1
In substantially the same manner as in Working Example 146, 2-(3-pyridyl)-4-thiazolylmethanol was mesylated, which was allowed to react with 1-[3-(4-hydroxyphenyl)propyl]imidazole to give 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-(3-pyridyl)thiazole. The yield was 35%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 67-68° C.

reactant | 2-(3-pyridyl)-4-thiazolylmethanol | N1=CC(=CC=C1)C=1SC=C(N1)CO | C9H8N2OS
reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
product | 4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-2-(3-pyridyl)thiazole | yield was 35% | N1(C=NC=C1)CCCC1=CC=C(OCC=2N=C(SC2)C=2C=NC=CC2)C=C1 | C21H20N4OS
